US04687859
0.336 g (1 mmol) of cis-1,3-dibenzyl-hexahydro-1H-furo[3,4-d]imidazole-2,4,6-trione in 3.3 ml of tetrahydrofuran are placed in an apparatus standing under argon. There is then added dropwise within 15 minutes at room temperature a solution of 0.15 ml (1.1 mmol) of triethylamine and 0.224 g (1 mmol) of [S]-1,1-di-(3-thienyl)-2-propanol ([α]36520 =-77.4° (1% in ethanol)) in 3.3 ml of tetrahydrofuran. The solution is then stirred at room temperature for 1.5 hours. To this solution there are added at 40°-50° C. while gassing with argon 1.9 ml of a 1.04 molar lithium borohydride solution in tetrahydrofuran (2 mmol) and the mixture is stirred at 40°-45° C. for 2 hours. After cooling 3 ml of 3N HCl are added dropwise thereto at 10°-15° C. The mixture obtained is then stirred at 70° C. for 30 minutes and susequently extracted in 2 separating funnels with 100 ml of ether each time. The organic phases are washed four times with 50 ml of water each time, combined, dried over sodium sulphate and concentrated. The residue is chromatographed on 150 g of silica gel with 600 ml of n-hexane/ether (4:6, v/v) and 800 ml of toluene/acetone/glacial acetic acid (92:5:3, v/v). There is obtained (3aS,6aR)-1,3-dibenzyl-dihydro-1H-furo[3,4-d]imidazole-2,4(3H,3aH)-dione with [α]D20 =+49.3° (1% in CHCl3), which corresponds to an optical purity of 79.5% e.e.

reactant | cis-1,3-dibenzyl-hexahydro-1H-furo[3,4-d]imidazole-2,4,6-trione | 1 mmol, 0.336 g | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1C(OC2=O)=O)CC2=CC=CC=C2)=O | C19H16N2O4
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | [S]-1,1-di-(3-thienyl)-2-propanol | 1 mmol, 0.224 g | S1C=C(C=C1)C([C@H](C)O)C1=CSC=C1 | C11H12OS2
reactant | lithium borohydride | 1.04 molar | [BH4-].[Li+]
reactant | HCl | 3N, 3 ml | Cl | ClH
solvent | tetrahydrofuran | 3.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mmol | O1CCCC1 | C4H8O
product | (3aS,6aR)-1,3-dibenzyl-dihydro-1H-furo[3,4-d]imidazole-2,4(3H,3aH)-dione | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1COC2=O)CC2=CC=CC=C2)=O | C19H18N2O3
